US06486190B1
To a mixture of di-2-pyridyl thionocarbonate (0.72 g, 3.11 mmol) and 4-dimethylaminopyridine (0.02 g) in ethyl acetate (50 mL) is added dropwise a solution of 5-amino-4-ethyl-7-methylbenzimidazole (0.42 g, 2.39 mmol) in ethyl acetate (20 mL) and methanol (5 mL). The mixture is stirred at room temperature for 3 hours, then rotary evaporated. The residue is purified by filtration on a short pad of silica gel, eluting with ethyl acetate, to afford 4-ethyl-5-isothiocyanato-7-methylbenzimidazole as a tan solid.

reactant | di-2-pyridyl thionocarbonate | 3.11 mmol, 0.72 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | 5-amino-4-ethyl-7-methylbenzimidazole | 2.39 mmol, 0.42 g | NC1=C(C2=C(N=CN2)C(=C1)C)CC | C10H13N3
catalyst | 4-dimethylaminopyridine | 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | 4-ethyl-5-isothiocyanato-7-methylbenzimidazole | C(C)C1=C(C=C(C=2N=CNC21)C)N=C=S | C11H11N3S
